US09193734B2
Synthesis of tert-butyl (S)-5-amino-6-(((S)-1,1-diethoxypropan-2-yl)(quinolin-8-ylmethyl)amino)-6-oxohexylcarbamate (Compound IV-14)
6-tert-butoxycarbonylamino-2-(S)-(9H-fluoren-9-yl)methylamino-N—((S)-1,1-diethoxypropan-2-yl)-N-(quinolin-8-ylmethyl)hexanamide (Compound III-14) 20.0 g (27 mmol) and piperidine 22.7 g (270 mmol) were added in DCM (90 ml). The mixture was stirred for 1.5 h at room temperature. The mixture was diluted with DCM (200 ml) and washed with water (150 ml×3). The solution was concentrated in vacuo. The residue was purified by column chromatography on silica gel with PE:EA=50:1 to DCM:MeOH=10:1 to give the title compound 11.3 g, (yield 81%).

reactant | 6-tert-butoxycarbonylamino-2-(S)-(9H-fluoren-9-yl)methylamino-N—((S)-1,1-diethoxypropan-2-yl)-N-(quinolin-8-ylmethyl)hexanamide | 27 mmol, 20.0 g | C(C)(C)(C)OC(=O)NCCCC[C@@H](C(=O)N(CC=1C=CC=C2C=CC=NC12)[C@H](C(OCC)OCC)C)NCC1C2=CC=CC=C2C=2C=CC=CC12 | C42H54N4O5
reactant | piperidine | 270 mmol, 22.7 g | N1CCCCC1 | C5H11N
reactant | EA | CC(OCC)=O | C4H8O2
reactant | MeOH | CO | CH4O
solvent | DCM | 90 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 200 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl (S)-5-amino-6-(((S)-1,1-diethoxypropan-2-yl)(quinolin-8-ylmethyl)amino)-6-oxohexylcarbamate | 11.3 g, yield 81% | N[C@@H](CCCCNC(OC(C)(C)C)=O)C(=O)N(CC=1C=CC=C2C=CC=NC12)[C@H](C(OCC)OCC)C | C28H44N4O5
